US08563575B2
Triethylamine (18 ml) was added to a mixture of 2-chloro-1-methyl-1H-benzimidazole (7.2 g) and p-bromophenol (22.5 g) at room temperature. The mixture was stirred at 120° C. for 6 h. The mixture was quenched with water at room temperature and extracted with EtOAc. The organic layer was separated, washed with 1 N NaOH aq. and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 10%-15% EtOAc in hexane) to give 2-(4-bromophenoxy)-1-methyl-1H-benzimidazole (3.2 g) as colorless crystals.

reactant | 2-chloro-1-methyl-1H-benzimidazole | 7.2 g | ClC1=NC2=C(N1C)C=CC=C2 | C8H7ClN2
reactant | p-bromophenol | 22.5 g | C1=CC(=CC=C1O)Br | C6H5BrO
solvent | Triethylamine | 18 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-bromophenoxy)-1-methyl-1H-benzimidazole | 3.2 g | BrC1=CC=C(OC2=NC3=C(N2C)C=CC=C3)C=C1 | C14H11BrN2O
